US06187777B1
2,7-Dimethyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Monohydrate.
Using the method described in Example 30 by employing (1-phenylbut-1-enyl) pyrrolidine (freshly prepared before use) (2.13 g, 11.5 mmol), 4,6-dichloro-5-nitropyrimidine (Aldrich Chemical Company) (2.30 g, 11.5 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (2.0 mL, 11.5 mmol), piperidine (1.8 mL, 18.4 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (Aldrich Chemical Company) (35 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 304 mg (9%) of the free base as a beige colored fluffy solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.63 (br s, 6), 2.27 (s, 3), 2.44 (s, 3), 3.71 (br s, 4), 7.43 (t, 1, J=7.3), 7.52 (t, 2, J=7.6), 7.65 (d, 2, J=7.4), 10.79 (s, 1). MS m/z: 307 (M+1). To a solution of 2,7-dimethyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine (0.22 g, 0.76 mmol) in 5:1 EtOAc: MeOH (30 mL) was added 1M etheral HCl (Aldrich Chemical Company) (760 mL, 0.73 mmol). The precipitate was collected by filtration, washed with ether (3×15 mL) and dried under vacuum to give 224 mg (90%) of the title compound as a white colored solid. Mp: >280° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.69 (br s, 6), 2.35 (s, 3), 2.64 (s, 3), 4.03 (br s, 4), 7.52-7.60 (m, 3), 7.65-7.68 (m, 2), 11.94 (s, 1), 14.16 (s, 1). MS m/z: 307 (M+1). Anal. Calcd. for C24H24N4.1.1HCl.H2O: C, 62.74; H, 6.95; N, 15.41; Cl, 10.50. Found C, 63.09; H, 7.00; N, 15.39; Cl, 10.54.

reactant | 2,7-dimethyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine | 0.76 mmol, 0.22 g | CC1NC(CC(C1)C1=NC=C2C(N1)=C(C=N2)C)C2=CC=CC=C2 | C19H22N4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 0.73 mmol, 1M, 760 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 2,7-Dimethyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Monohydrate | 224 mg, 90% | O.Cl.CC1NC(CC(C1)C1=NC=C2C(N1)=C(C=N2)C)C2=CC=CC=C2 | InChI=1S/C19H22N4.ClH.H2O/c1-12-10-20-17-11-21-19(23-18(12)17)15-8-13(2)22-16(9-15)14-6-4-3-5-7-14;;/h3-7,10-11,13,15-16,22H,8-9H2,1-2H3,(H,21,23);1H;1H2
